US06573270B1
N-[3-(2-hydroxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-5-isopropyl-2-pyridinesulfonamide
To a solution of 2-{[5-amino-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate (Preparation 5) (3.80 g) in anhydrous pyridine (25 ml) at room temperature and under an atmosphere of nitrogen was added 4-dimethylaminopyridine (0.85 g) and 5-isopropyl-2-pyridinesulfonyl chloride (2.00 g). After being left to stir overnight, the reaction mixture was poured onto saturated citric acid solution (300 ml) and extracted with ethyl acetate (2×200 ml). The organic fractions were washed with brine (200 ml), dried over magnesium sulfate, filtered and concentrated under reduced pressure. To a solution of the residue (4.45 g) in ethanol (100 ml) was added sodium hydroxide solution (2.76 g in 10 ml water). The red solution which formed was stirred for 1 hour before being concentrated to approximately 20 ml under reduced pressure and partitioned between ethyl acetate (2×100 ml) and saturated citric acid solution (100 ml). Washing of the organic fractions with brine (100 ml), drying over magnesium sulfate, filtering and concentration under reduced pressure afforded a brown residue. Purification by column chromatography on silica gel (200 g), eluting in an isocratic fashion with dichloromethane:methanol (20:1) afforded the title compound as a brown foam (1.85 g).

reactant | 2-{[5-amino-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate | 3.80 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N)C | C15H19N3O3
reactant | 5-isopropyl-2-pyridinesulfonyl chloride | 2.00 g | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)Cl | C8H10ClNO2S
reactant | citric acid | 300 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.85 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(2-hydroxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-5-isopropyl-2-pyridinesulfonamide | 1.85 g | OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)C | C21H26N4O4S
